US04396618
3.8 ml of thionyl chloride and 26 ml of methylene chloride were added at 0° C. under nitrogen to a mixture of 15.3 g of the syn isomer of 2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetic acid in 80 ml of methylene chloride and after standing at 0° C. for 15 minutes, 7 ml of triethylamine were added thereto. A mixture of 14.4 g of 7-amino-3-acetylthiomethyl-ceph-3-eme-4-carboxylic acid in 100 ml of methylene chloride and 14 ml of triethylamine were added to the mixture at 0° C. under nitrogen and the temperature was allowed to return to 20° C. The mixture was stirred for an hour and was then evaporated to dryness at 30°-35° C. under reduced pressure. The residue was taken up in 250 ml of water and the solution was raised through carbon black. 50 ml of 2 N hydrochloric acid were added thereto and the mixture was vacuum filtered. The product was washed with water and the raw product was suspended in 80 ml of ethanol. 7 ml of triethylamine were added thereto at 5° C. and 15 ml of 4 N sulfuric acid were added thereto all at once with stirring at 5° C. After standing for 15 minutes, the mixture was vacuum filtered and the product was empasted with ethanol, then with ether and was dried under reduced pressure to obtain the syn isomer of 3-acetylthiomethyl-7-[{2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetyl}amino]-ceph-3-eme-4-carboxylic acid.

reactant | thionyl chloride | 3.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetic acid | ClCC(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C8H8ClN3O4S
reactant | 7-amino-3-acetylthiomethyl-ceph-3-eme-4-carboxylic acid | 14.4 g | NC1[C@@H]2N(C(=C(CS2)CSC(C)=O)C(=O)O)C1=O | C10H12N2O4S2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 26 ml | C(Cl)Cl | CH2Cl2
product | 3-acetylthiomethyl-7-[{2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetyl}amino]-ceph-3-eme-4-carboxylic acid | C(C)(=O)SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC)C=2N=C(SC2)NC(CCl)=O)=O)=O | C18H18ClN5O7S3
